US08207197B2
1-[3-[3-(4-chlorophenyl)propoxy]propyl]-piperidine
According to the method disclosed in EP-982300, Example 78, sodium 3-piperidinopropanolate (2.127 kg; 12.88 mol), 3-(4-chlorophenyl)propyl mesylate (1.121 kg; 4.51 mol) and 0.322 mol of 15-crown-5 in 4.5 kg of dry toluene were refluxed for 4 hours. The solvent was evaporated and the residue purified by column chromatography on silica gel (eluent: methylene chloride/methanol (90/10)). The obtained oil was distilled in a fractionating equipment at reduced pressure (0.3-0.7 mmHg) and with a heating jacket at 207-210° C. The head fractions and the distilled fraction at 0.001-0.010 mmHg with a jacket temperature of 180-200° C. were collected. The obtained oil (1.0 kg; 3.38 mol) corresponds to 1-[3-[3-(4-chlorophenyl)propoxy]propyl]-piperidine. Yield 75%.

reactant | sodium 3-piperidinopropanolate | 12.88 mol, 2.127 kg | N1(CCCCC1)CCC[O-].[Na+]
reactant | 3-(4-chlorophenyl)propyl mesylate | 4.51 mol, 1.121 kg | S(C)(=O)(=O)OCCCC1=CC=C(C=C1)Cl | C10H13ClO3S
reactant | 15-crown-5 | 0.322 mol | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | toluene | 4.5 kg | C1(=CC=CC=C1)C | C7H8
product | 1-[3-[3-(4-chlorophenyl)propoxy]propyl]-piperidine | Yield 75% | ClC1=CC=C(C=C1)CCCOCCCN1CCCCC1 | C17H26ClNO
